US09085555B2
A. (S)-2-[(3-Trifluoromethoxy-phenylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
N-(tert-Butoxycarbonyl)-L-prolinal (200 mg, 1.00 mmol) and 3-trifluoromethoxy-phenylamine (186.8 mg, 1.05 mmol) were mixed in 1,2-dichloroethane (10 mL) and treated with sodium triacetoxyborohydride (314 mg, 1.41 mmol). The mixture was stirred at RT under nitrogen overnight, then quenched by addition of water, extracted with CH2Cl2, dried over Na2SO4, filtered and concentrated. The crude oil was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1) to give the desired material. MS (LC/MS): 361.1 [M+H]+.

reactant | N-(tert-Butoxycarbonyl)-L-prolinal | 1.00 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | 3-trifluoromethoxy-phenylamine | 1.05 mmol, 186.8 mg | FC(OC=1C=C(C=CC1)N)(F)F | C7H6F3NO
reactant | sodium triacetoxyborohydride | 1.41 mmol, 314 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (S)-2-[(3-Trifluoromethoxy-phenylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC1=CC(=CC=C1)OC(F)(F)F | C17H23F3N2O3
